US09428528B2
Step 4 Preparation of 2,2-Difluoro-N-[(1R,2R)-1-fluoromethyl-2-(4-{6-[(3-fluoro-propylamino)-methyl]-pyridin-3-yl}-phenyl)-2-hydroxy-ethyl]-acetamide
To a solution of 2,2-Difluoro-1-[(4S,5R)-4-fluoromethyl-5-(4-{6-[(3-fluoro-propylamino)-methyl]-pyridin-3-yl}-phenyl)-2,2-dimethyl-oxazolidin-3-yl]-ethanone (0.113 g, 0.249 mmol) in CH2Cl2 (5 mL) is added trifluoroacetic acid (1.0 mL) at 0° C. The resulting reaction mixture is stirred at room temperature for 5 hours. Solvent is evaporated under reduced pressure and the crude residue is diluted with aqueous bicarbonate solution and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by combi-flash chromatography using 15% methanol in CH2Cl2 as eluent. Obtained solid is further washed with n-pentane and diethyl ether to give the title compound (0.034 g). 1H NMR (400 MHz, DMSO-d6) δ: 1.84-1.93 (m, 2H), 2.50-2.54 (m, 2H), 2.76 (bs, 1H), 3.99 (bs, 2H), 4.29-4.31 (m, 1.5H), 4.40-4.48 (m, 1.5H), 4.54-4.60 (m, 1.5H), 4.65-4.68 (m, 0.5H), 4.87 (bs, 1H), 5.92 (d, J=4.52 Hz, 1H), 6.20 (t, J=53.64 Hz, 1H), 7.46 (d, J=8.24 Hz, 2H), 7.52 (d, J=8.12 Hz, 1H), 7.70 (d, J=8.24 Hz, 2H), 8.08-8.10 (dd, J1=2.36 Hz, J2=8.2 Hz, 1H), 8.85 (m, 2H). LC-MS (m/z): [M+H]=414.1.

reactant | 2,2-Difluoro-1-[(4S,5R)-4-fluoromethyl-5-(4-{6-[(3-fluoro-propylamino)-methyl]-pyridin-3-yl}-phenyl)-2,2-dimethyl-oxazolidin-3-yl]-ethanone | 0.249 mmol, 0.113 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)CNCCCF)(C)C)F | C23H27F4N3O2
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2,2-Difluoro-N-[(1R,2R)-1-fluoromethyl-2-(4-{6-[(3-fluoro-propylamino)-methyl]-pyridin-3-yl}-phenyl)-2-hydroxy-ethyl]-acetamide | 0.034 g | FC(C(=O)N[C@H]([C@H](O)C1=CC=C(C=C1)C=1C=NC(=CC1)CNCCCF)CF)F | C20H23F4N3O2
